US04220761
A mixture of ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer, 56.7 g), N,N-dimethylformamide (280 ml), potassium carbonate (72.3 g) and propargyl bromide (43 g) was stirred at room temperature for 4 hrs. The reaction mixture was treated in a conventional manner to give ethyl 2-propargyloxyimino-3-oxobutyrate (syn isomer, 71.2 g).

reactant | ethyl 2-hydroxyimino-3-oxobutyrate | 56.7 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | potassium carbonate | 72.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 43 g | C(C#C)Br | C3H3Br
solvent | N,N-dimethylformamide | 280 ml | CN(C=O)C | C3H7NO
product | ethyl 2-propargyloxyimino-3-oxobutyrate | 71.2 g | C(C#C)ON=C(C(=O)OCC)C(C)=O | C9H11NO4
